US09371320B2
D) N′-(2,2-dimethylcyclopentyl)-4-iodo-2-methoxynicotinohydrazide
To a mixture of 4-iodo-2-methoxy-3-pyridinecarboxylic acid (2.8 g) and triethylamine (4.5 g) in DMA (40 mL) was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (5.7 g) under ice-cooling. The reaction mixture was stirred at room temperature for 30 min, and (2,2-dimethylcyclopentyl)hydrazine trihydrochloride (2.8 g) was added thereto under ice-cooling. The reaction mixture was stirred at room temperature for 1 hr, and added to water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/petroleum ether) to give the title compound (3.0 g).

reactant | 4-iodo-2-methoxy-3-pyridinecarboxylic acid | 2.8 g | IC1=C(C(=NC=C1)OC)C(=O)O | C7H6INO3
reactant | triethylamine | 4.5 g | C(C)N(CC)CC | C6H15N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 5.7 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | (2,2-dimethylcyclopentyl)hydrazine trihydrochloride | 2.8 g | Cl.Cl.Cl.CC1(C(CCC1)NN)C
solvent | DMA | 40 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | N′-(2,2-dimethylcyclopentyl)-4-iodo-2-methoxynicotinohydrazide | 3.0 g | CC1(C(CCC1)NNC(C1=C(N=CC=C1I)OC)=O)C | C14H20IN3O2
